US04447529
Substrate-Labeled Fluorescent Immunoassay Element for Amikacin
Amikacin sulfate is a water-soluble, broad spectrum, semisynthetic aminoglycoside antibiotic derived from kanamycin, which is obtained from Streptomyces kanamyceticus. In normal adults, average peak serum concentrations of about 12, 16 and 21 μg/ml are obtained about 1 hour after intramuscular administration of 3.7 mg/kg, 5 mg/kg, and 7.5 mg/kg single doses, respectively. Normal dosage is 15 mg/kg daily, divided into 2-3 equal doses.

reactant | Amikacin sulfate | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1NC(=O)[C@H](CCN)O)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CN)O)O)O)N.OS(=O)(=O)O
reactant | kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
solvent | water | O | H2O
product | Amikacin | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1NC(=O)[C@H](CCN)O)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CN)O)O)O)N | C22H43N5O13
